US07728029B2
5-Chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid (69 mg, 0.4 mmol, CAS#: 27006-82-2, purchased from Maybridge) was dissolved in a mixture of dry dichloromethane (3.2 mL) and dry DMF (0.8 mL). DIPEA (0.28 mL, 1.6 mmol) and TSTU (145 mg, 0.4 mmol) were added to the above mixture. After the mixture was stirred for 1 h, the appearance of active ester was detected by LC-MS. Then 2-aminoadamantane hydrochloride (75 mg, 0.4 mmol) was added. After another 2 hours water was added and the organic layer was separated. The aqueous layer was extracted twice with dichloromethane. The combined organic phases were dried under vacuum and purified by C-18 reversed phase HPLC with a gradient of 10-100% acetonitrile/water to give 5-chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide (72 mg, 58%). Mass spectrum: m/z: 308.1 (M+1).

reactant | 5-Chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid | 0.4 mmol, 69 mg | ClC1=C(C(=NN1C)C)C(=O)O | C6H7ClN2O2
reactant | DIPEA | 1.6 mmol, 0.28 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TSTU | 0.4 mmol, 145 mg | [B-](F)(F)(F)F.CN(C)C(=[N+](C)C)ON1C(=O)CCC1=O
reactant | 2-aminoadamantane hydrochloride | 0.4 mmol, 75 mg | Cl.NC1C2CC3CC(CC1C3)C2
solvent | dichloromethane | 3.2 mL | ClCCl | CH2Cl2
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-chloro-1,3-dimethyl-1H-pyrazole-4-carboxylic acid adamantan-2-ylamide | 72 mg, 58% | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NN(C2Cl)C)C | C16H22ClN3O
